US03969527
A. 4-(3-Dimethylaminopropoxy)benzaldehyde
A stirred solution of 61.0 g (0.50 mole) of 4-hydroxybenzaldehyde in 400 ml of dimethylformamide (nitrogen atmosphere) is gradually treated with 24.0 g of 50% NaH. The temperature is kept below 35° using an ice water bath. When the addition is completed, the thick mixture is heated to 70° for several minutes, then cooled to 35° before the addition of 417 ml of 1.8N (0.75 mole) of 3-dimethylaminopropyl chloride in toluene.

reactant | 4-hydroxybenzaldehyde | 0.50 mole, 61.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | NaH | 24.0 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 0.75 mole, 1.8N | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Dimethylaminopropoxy)benzaldehyde | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
